US06436929B1
4-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-furan-2-carbonitrile was prepared from (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 4-bromo-2-furancarbonitrile according to Procedure B. Off-white solid: mp 255-256° C. 1H-NMR (DMSO-d6) δ10.32 (s, 1H, D2O exchangeable), 8.57 (s, 1H), 8.15 (s, 1H), 7.61 (s, 1H), 7.55 (dd, 1H, J=8.3, 1.5 Hz), 6.92 (d, 1H, J=8.2 Hz), 1.65 (s, 6H); MS (ESI) m/z 269(M+H, 72%). Anal. Calc. For C15H12N2O3: C, 67.16; H, 4.51; N, 10.44. Found: C, 67.14; H, 4.59; N, 10.07.

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 4-bromo-2-furancarbonitrile | BrC=1C=C(OC1)C#N | C5H2BrNO
product | 4-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-furan-2-carbonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(OC2)C#N)C | C15H12N2O3
